US07153875B2
To a solution of 4-[3-(1-adamantyl)-4-methoxymethoxyphenyl]benzaldehyde (6.88 g, 18.30 mmol) in 200 mL of THF:isopropanol (1:1) was a added 30 mL of6 N HCl at room temperature. After 20 hours 30 mL of 12 N HCl was added. After 57 hours starting material was still present, 60 mL of additional 12 N HCl was added and stirred for 16 hours. The resulting mixture was diluted with water and extracted with ether (2×200 mL). The combined organics were washed with water (150 mL), brine (100 mL), dried over anhydrous magnesium sulfate, filtered and evaporated to give 6.00 g (99%) of 4-[3-(1-adamantyl)-4-hydroxyphenyl]benzaldehyde as a solid. 1H NMR (300 MHz; DMSO-d6): δ 1.72 (brs, 6H), 2.00–2.20 (m, 9H), 6.88 (d, J=8.7 Hz, 1H), 7.36–7.48 (m, 2H), 7.78 (d, J=8.1 Hz, 2H), 7.90 (d, J=8.1 Hz, 2H), 9.67 (s, 1H), 9.98 (s, 1H).

reactant | 4-[3-(1-adamantyl)-4-methoxymethoxyphenyl]benzaldehyde | 18.30 mmol, 6.88 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCOC)C2=CC=C(C=O)C=C2 | C25H28O3
reactant | HCl | Cl | ClH
reactant | HCl | 12 N, 30 mL | Cl | ClH
reactant | HCl | 12 N | Cl | ClH
solvent | THF isopropanol | 200 mL | C1CCOC1.C(C)(C)O
solvent | water | O | H2O
product | 4-[3-(1-adamantyl)-4-hydroxyphenyl]benzaldehyde | 6.00 g, 99% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2O)C2=CC=C(C=O)C=C2 | C23H24O2
